### PR TITLE
[Merged by Bors] - feat(Order/Interval/Set/Basic): generalize lemma

### PR DESCRIPTION
**Pull request by plp127**
Changes `Set.Icc_inter_Icc_eq_singleton` to assume a partial order instead of a lattice.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 1]
```diff
@@ -804,6 +804,11 @@ theorem Ici_inj : Ici a = Ici b ↔ a = b :=
 theorem Iic_inj : Iic a = Iic b ↔ a = b :=
   Iic_injective.eq_iff
 
+@[simp]
+theorem Icc_inter_Icc_eq_singleton (hab : a ≤ b) (hbc : b ≤ c) : Icc a b ∩ Icc b c = {b} := by
+  rw [← Ici_inter_Iic, ← Iic_inter_Ici, inter_inter_inter_comm, Iic_inter_Ici]
+  simp [hab, hbc]
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Set/Basic.lean:810]: I wonder if something like `aesop (add safe forward le_antisymm)` works for this proof?

**Review by b-mehta — COMMENTED** [review]
bors d+

File: Mathlib/Order/Interval/Set/Basic.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/Order/Interval/Set/Basic.lean:810]: It works, but is 8-10 times slower, so I will not be making this change.

**Comment by plp127** [comment]
bors merge
